US08076324B2
3-Bromo-5-cyclopropyl-1H-[1,2,4]triazole
5.0 g of 3-amino-5-cyclopropyl-1H-[1,2,4]triazole were dissolved in 30 ml of acetic acid and 20 ml of a 48% aqueous hydrogen bromide solution were added dropwise. Subsequently, a solution of 3.1 g of sodium nitrite in 10 ml of water was added dropwise at 0° C. in the course of 10 min and the mixture was subsequently stirred at 0° C. for 10 min. The suspension thus obtained was added in portions at 0° C. to a suspension of 11.6 g of copper(I) bromide in 20 ml of a 24% aqueous hydrogen bromide solution. Subsequently, it was stirred at room temperature for 1 h, then the mixture was added to 400 ml of a saturated aqueous sodium carbonate solution and precipitated copper compound was filtered off. The mixture was washed with 100 ml of EA, then the phases were allowed to separate and the aqueous phase was extracted a further two times with 100 ml each of EA. The combined organic phases were dried over magnesium sulfate and the solvent was removed in vacuo. 2.5 g of the title compound were obtained as a light yellow oil.

reactant | 3-amino-5-cyclopropyl-1H-[1,2,4]triazole | 5.0 g | NC1=NNC(=N1)C1CC1 | C5H8N4
reactant | hydrogen bromide | Br | BrH
reactant | sodium nitrite | 3.1 g | N(=O)[O-].[Na+]
reactant | sodium carbonate | 400 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
catalyst | copper(I) bromide | 11.6 g | [Cu]Br
product | 3-Bromo-5-cyclopropyl-1H-[1,2,4]triazole | 2.5 g | BrC1=NNC(=N1)C1CC1 | C5H6BrN3
